US04509972
1.5 g (0.0070 mol) of 2-chlorophenylsulfonyl isocyanate were added to a suspension of 1.3 g (0.0068 mol) of 2-amino-4-dimethylaminopteridine in 40 ml of acetonitrile and the mixture was stirred at reflux for 4 hours. The mixture was vacuum filtered and the filtrate was concentrated by evaporation. The residue was treated with acetone to obtain 2.05 g (74% of theory) of N-(4-dimethylaminopteridine-2-yl)-N'-(2-chlorophenylsulfonyl)-urea in the form of light yellow crystals melting at 232° C.

reactant | 2-chlorophenylsulfonyl isocyanate | 0.0070 mol, 1.5 g | ClC1=C(C=CC=C1)S(=O)(=O)N=C=O | C7H4ClNO3S
reactant | 2-amino-4-dimethylaminopteridine | 0.0068 mol, 1.3 g | NC1=NC2=NC=CN=C2C(=N1)N(C)C | C8H10N6
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | N-(4-dimethylaminopteridine-2-yl)-N'-(2-chlorophenylsulfonyl)-urea | 2.05 g, 74% | CN(C1=NC(=NC2=NC=CN=C12)NC(=O)NS(=O)(=O)C1=C(C=CC=C1)Cl)C | C15H14ClN7O3S
